US07951954B2
e) [2-(2-Fluoro-phenyl)-ethyl]-[5-(2-hydroxy-ethyl)-2-methoxy-benzyl]-carbamic acid tert-butyl ester
2M Lithium borohydride in tetrahydrofuran (1.5 mL) was added to a solution of [3-({tert-butoxycarbonyl-[2-(2-fluoro-phenyl)-ethyl]-amino}-methyl)-4-methoxy-phenyl]-acetic acid methyl ester (0.25 g) in tetrahydrofuran (5 mL), at 0° C. under nitrogen. After 4 hours, the reaction was quenched by the addition of ethyl acetate. The reaction was diluted with ethyl acetate and extracted sequentially twice with saturated aqueous sodium bicarbonate solution, brine, dried (magnesium sulfate) and evaporated. Purification on silica, eluting with a gradient of methanol (0% to 1%) in dichloromethane, to give the subtitle compound as an oil (0.25 g).

reactant | Lithium borohydride | 2M | [BH4-].[Li+]
reactant | [3-({tert-butoxycarbonyl-[2-(2-fluoro-phenyl)-ethyl]-amino}-methyl)-4-methoxy-phenyl]-acetic acid methyl ester | 0.25 g | COC(CC1=CC(=C(C=C1)OC)CN(CCC1=C(C=CC=C1)F)C(=O)OC(C)(C)C)=O | C24H30FNO5
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [2-(2-Fluoro-phenyl)-ethyl]-[5-(2-hydroxy-ethyl)-2-methoxy-benzyl]-carbamic acid tert-butyl ester | 0.25 g | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)CCO)OC)CCC1=C(C=CC=C1)F)=O | C23H30FNO4
